US08912186B2
The solution of ethyl 4-(5,6-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoate (0.31 g) in a mixture of acetic acid (2 ml) and conc. HCl (0.5 ml) was heated to reflux for 1 h. Then all volatiles are removed at the water aspirator. The residue is dried by distillation with toluene (50 ml) and triturated with boiling acetone (5 ml). The precipitate is collected by filtration, washed with acetone and dried in vacuo to yield 4-(5,6-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl (0.26 g) as colourless solid.

reactant | ethyl 4-(5,6-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoate | 0.31 g | ClC1=CC2=C(N=C(N2)CC(CC(=O)OCC)C2=CC=C(C=C2)Cl)C=C1Cl | C19H17Cl3N2O2
reactant | HCl | 0.5 ml | Cl | ClH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 4-(5,6-dichloro-2-benzimidazolyl)-3-(4-chlorophenyl)butanoic acid•HCl | 0.26 g | ClC1=CC2=C(N=C(N2)CC(CC(=O)O)C2=CC=C(C=C2)Cl)C=C1Cl.Cl | InChI=1S/C17H13Cl3N2O2.ClH/c18-11-3-1-9(2-4-11)10(6-17(23)24)5-16-21-14-7-12(19)13(20)8-15(14)22-16;/h1-4,7-8,10H,5-6H2,(H,21,22)(H,23,24);1H
